US08048887B2
To a 25 mL flask was added 2′-chloro-4-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)biphenyl-2-carboxylic acid (39.6 mg, 0.079 mmol), DMF (2 mL), N-ethyl-N,N-isopropylpropan-2-amine (0.055 mL, 0.317 mmol), 1-(pyridin-2-yl)cyclopropanamine (15.94 mg, 0.119 mmol), and finally HATU (2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate (V), (120 mg, 0.317 mmol). The flask was sealed and the mixture stirred over night at room temperature. The crude product was purified using a Shimadzu preparative HPLC employing acetonitrile/water/trifluoroacetic acid where solvent A was 10% acetonitrile/90% water/0.1% trifluoroacetic acid and solvent B was 10% water/90% acetonitrile/0.1% trifluoroacetic acid with a Waters Sunfire 5 μm C18 19×150 mm column at a gradient of 20-100% B and a flow rate of 25 mL/min. over 20 minutes with a 10 minute hold. Solvent was removed giving 40.7 mgs (70% yield) of 5-(2′-chloro-2-(1-(pyridin-2-yl)cyclopropylcarbamoyl)biphenyl-4-yl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide as a white solid. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: PHENOMENEX® Luna 3 μm C18, 2×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 4 minutes with a 1 minute hold at a rate of 0.8 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 254 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% trifluoroacetic acid with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (400 MHz, THF-d8) δ ppm 0.90-1.10 (m, 2H), 1.42-1.53 (m, 2H), 2.94 (d, J=4.52 Hz, 3H), 7.11 (dd, J=6.90, 5.40 Hz, 1H), 7.18-7.27 (m, 2H), 7.30-7.43 (m, 5H), 7.44-7.49 (m, 1H), 7.52-7.58 (m, 1H), 7.59-7.67 (m, 2H), 7.73 (dd, J=8.53, 1.76 Hz, 1H), 7.81 (dd, J=7.78, 2.01 Hz, 1H), 7.95-8.01 (m, 2H), 8.06 (d, J=1.51 Hz, 1H), 8.09-8.17 (m, 2H), 8.41 (d, J=4.02 Hz, 1H). LCMS m/z 617.3 (M+H), Rt=2.765 min. HPLC (Sunfire C18) Rt=7.823 min, 100% purity and (XBridge phenyl C18) Rt=11.871 min., 99.8% purity.

reactant | 2′-chloro-4-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)biphenyl-2-carboxylic acid | 0.079 mmol, 39.6 mg | ClC1=C(C=CC=C1)C=1C(=CC(=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)C(=O)O | C29H19ClFNO4
reactant | 1-(pyridin-2-yl)cyclopropanamine | 0.119 mmol, 15.94 mg | N1=C(C=CC=C1)C1(CC1)N | C8H10N2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate (V) | 0.317 mmol, 120 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(2′-chloro-2-(1-(pyridin-2-yl)cyclopropylcarbamoyl)biphenyl-4-yl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 40.7 mgs, 70% yield | ClC1=C(C=CC=C1)C1=C(C=C(C=C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C(NC1(CC1)C1=NC=CC=C1)=O | C37H27ClFN3O3
